US09290451B2
b) 6-Chloro-5-methyl-pyridine-2-carboxylic acid
5-Methyl-2-pyridinecarboxylic acid 1-oxide (0.9 g, 5.88 mmol) was added to phosphoryl trichloride (30 mL). The mixture was stirred at 105° C. for 3 h. After that the mixture was cooled to room temperature, added to ice water slowly and extracted with methylene chloride (4×30 mL). The organic layer was washed with brine (50 mL), dried over anhydrous sodium sulfate, and concentrated to give the crude product (0.85 g, 84.3%); MS (EI): m/e=172.0 [M+H]+.

reactant | 5-Methyl-2-pyridinecarboxylic acid 1-oxide | 5.88 mmol, 0.9 g | CC1=CC=C([N+](=C1)[O-])C(=O)O | C7H7NO3
reactant | phosphoryl trichloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-5-methyl-pyridine-2-carboxylic acid | 0.85 g, 84.3% | ClC1=C(C=CC(=N1)C(=O)O)C | C7H6ClNO2
